US08222424B2
2-Chloro-5-hydroxymethyl-benzenesulfonamide
To a solution of 4-chloro-3-sulfamoyl-benzoic acid ethyl ester (46.95 g, 166 mmol) in 500 mL of dry tetrahydrofuran is added dropwise, with stirring, 199 mL of a 2 M solution of lithium borohydride in tetrahydrofuran. The mixture is stirred and refluxed for 5 hr, then left at room temperature for 18 h, and is then carefully diluted with 400 mL of water. The mixture is cooled to 4° C. for 24 hours and filtered to yield 32.7 g (82%) of the title compound as an off-white solid.

reactant | 4-chloro-3-sulfamoyl-benzoic acid ethyl ester | 166 mmol, 46.95 g | C(C)OC(C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=O | C9H10ClNO4S
reactant | lithium borohydride | [BH4-].[Li+]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | water | 400 mL | O | H2O
product | 2-Chloro-5-hydroxymethyl-benzenesulfonamide | 32.7 g, 82% | ClC1=C(C=C(C=C1)CO)S(=O)(=O)N | C7H8ClNO3S
